US04130719
Preparation of p-Hydroxymethylbenzoic Acid (pHMBA).
A mixture of Me pHMB (50.0 g., 0.30 mole) and 200 ml. of water containing sodium hydroxide (13.3 g., 0.33 mole) was refluxed for 3 hours. The colorless solution was filtered from a small amount (0.5 g.) of a gummy solid and extracted with methylene chloride (2 × 50 ml.). The aqueous portion was acidified with concentrated hydrochloric acid to give 37.0 g. of pHMBA: m.p. 180°-181° C. The filtrates were concentrated to 100 ml. at 100° C., cooled to 20° C., and filtered to give 6.7 g. of pHMBA (m.p. 181° C.). The combined yield of pHMBA was 43.7 g. (96%): silylation gc, 99.7% pHMBA.

reactant | Methyl p-Hydroxymethylbenzoate | 0.30 mole, 50.0 g | OCC1=CC=C(C(=O)OC)C=C1 | C9H10O3
reactant | sodium hydroxide | 0.33 mole, 13.3 g | [OH-].[Na+]
solvent | water | O | H2O
product | p-Hydroxymethylbenzoic Acid | OCC1=CC=C(C(=O)O)C=C1 | C8H8O3
